US04795751
A mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1-ethylpiperazine, and acetonitrile was refluxed for 5 hours. After cooling, the resulting crystals were filtered, washed with water and recrystallized from ethanol to give 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-ethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, m.p. 236°-237° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 1-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-ethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CCN(CC1)CC)F)C1CC1)C(=O)O)=O | C19H22F2N4O3
